US05236952
A solution of 1.82 g of boron tribromide in 20 ml of methylene chloride is added dropwise within about 20 minutes to a solution of 500 mg of 1-(o-hydroxyphenyl)-3-(3,4-dimethoxy-5-nitrophenyl)-1,3-propanedione in 50 ml of methylene chloride while stirring and under an argon atmosphere at -20°, whereupon the mixture is stirred at room temperature overnight. After cooling to -20° the mixture is treated dropwise with 25 ml of ethanol and evaporated at 40° in a water-jet vacuum. After recrystallization from ethanol, there is obtained 1-(3,4-dihydroxy-5-nitrophenyl)-3-(o-hydroxyphenyl)-1,3-propanedione in the form of yellow crystals of m.p. 251°-252°.

reactant | boron tribromide | 1.82 g | B(Br)(Br)Br | BBr3
reactant | 1-(o-hydroxyphenyl)-3-(3,4-dimethoxy-5-nitrophenyl)-1,3-propanedione | 500 mg | OC1=C(C=CC=C1)C(CC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC)=O | C17H15NO7
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dihydroxy-5-nitrophenyl)-3-(o-hydroxyphenyl)-1,3-propanedione | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(CC(=O)C1=C(C=CC=C1)O)=O | C15H11NO7
